US08492549B2
1-((S)-7-Fluoro-2,3-dihydrobenzo[1,4]dioxin-2-ylmethyl)-3-methyl-3-[(S)-2-(tetrahydropyran-2-yloxy)ethoxymethyl]piperidine
(S)-3-Methyl-3-[2-(tetrahydropyran-2-yloxy)ethoxymethyl]piperidine (100 mg, 0.39 mmol), methanesulfonic acid (R)-(7-fluoro-2,3-dihydrobenzo[1,4]dioxin-2-yl)methyl ester (102 mg, 0.39 mmol), K2CO3 (59 mg, 0.43 mmol) and KI (3 mg) were refluxed in dry DMF (3 ml) for 5 h. Water was added to the cooled mixture, followed by extraction with EtOAc (3×15 ml). The extracts were washed several times with water and finally with brine. After drying and filtering, the solvent was evaporated to give 143 mg of the crude product. This was chromatographed on silica (heptane/EtOAc, 70:30) to give 39 mg of the title compound as a colorless oil.

reactant | (S)-3-Methyl-3-[2-(tetrahydropyran-2-yloxy)ethoxymethyl]piperidine | 0.39 mmol, 100 mg | C[C@]1(CNCCC1)COCCOC1OCCCC1 | C14H27NO3
reactant | methanesulfonic acid (R)-(7-fluoro-2,3-dihydrobenzo[1,4]dioxin-2-yl)methyl ester | 0.39 mmol, 102 mg | FC=1C=CC2=C(O[C@H](CO2)COS(=O)(=O)C)C1 | C10H11FO5S
reactant | K2CO3 | 0.43 mmol, 59 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | Water | O | H2O
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
product | 1-((S)-7-Fluoro-2,3-dihydrobenzo[1,4]dioxin-2-ylmethyl)-3-methyl-3-[(S)-2-(tetrahydropyran-2-yloxy)ethoxymethyl]piperidine | 39 mg | FC=1C=CC2=C(O[C@H](CO2)CN2CC(CCC2)(COCCO[C@@H]2OCCCC2)C)C1 | C23H34FNO5
